US09145380B2
a) (E)-5-Chloro-2-(2-(4-chloro-2-methoxyphenyl)vinylsulfonamido)benzenesulfonamide
A solution of 2-amino-5-chlorobenzenesulfonamide (0.041 g, 0.20 mmol) and (E)-2-(4-chloro-2-methoxyphenyl)ethenesulfonyl chloride (0.053 g, 0.20 mmol) in pyridine (2 mL) was stirred at room temperature over night. The reaction mixture was concentrated, 1 M hydrochloric acid was added and the mixture was extracted with dichloromethane. The organic phase was dried over magnesium sulfate and the solvent was evaporated to give 0.087 g (99% yield) of the title compound.

reactant | 2-amino-5-chlorobenzenesulfonamide | 0.20 mmol, 0.041 g | NC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | (E)-2-(4-chloro-2-methoxyphenyl)ethenesulfonyl chloride | 0.20 mmol, 0.053 g | ClC1=CC(=C(C=C1)/C=C/S(=O)(=O)Cl)OC | C9H8Cl2O3S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (E)-5-Chloro-2-(2-(4-chloro-2-methoxyphenyl)vinylsulfonamido)benzenesulfonamide | 0.087 g, 99% yield | ClC=1C=CC(=C(C1)S(=O)(=O)N)NS(=O)(=O)\C=C\C1=C(C=C(C=C1)Cl)OC | C15H14Cl2N2O5S2
